US08871758B2
(S)-3-(8,8-Dimethyl-4,4-dioxo-7-oxa-4lambda6-thia-5-azaspiro[2.5]oct-5-en-6-ylamino)-3-phenylpropan-1-ol
250 mg of 1-(1-hydroxy-1-methylethyl)cyclopropanesulfonamide was dissolved in 2 ml of NMP, and admixed while cooling with ice with 0.70 ml of a 2 N solution of sodium bis(trimethylsilyl)amide in THF and, after stirring for 5 minutes, with the isothiocyanate solution prepared above. After stirring for 1.5 hours, 248 mg of N-bromosuccinimide were added and the resulting reaction solution was stirred again for 10 minutes. The reaction mixture was added to 20 ml of water and extracted three times with 20 ml of ethyl acetate. The combined organic phases were dried with saturated aqueous sodium chloride solution, dried over Na2SO4 and concentrated by rotary evaporation. The residue was dissolved in 5 ml of methanol, 0.20 ml of concentrated hydrochloric acid was added and the mixture was stirred for 1.5 hours. After the addition of 1.26 ml of 1 N aqueous sodium hydroxide solution, the mixture was concentrated by rotary evaporation and purified in a purification laboratory by means of preparative HPLC. After lyophilization of the product-containing fractions, the product (26 mg) was thus obtained with a molecular weight of 338.4 g/mol (C16H22N2O4S); MS (ESI): m/e=339 (M+H+).

reactant | 1-(1-hydroxy-1-methylethyl)cyclopropanesulfonamide | 250 mg | OC(C)(C)C1(CC1)S(=O)(=O)N | C6H13NO3S
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | isothiocyanate | [N-]=C=S
reactant | N-bromosuccinimide | 248 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | THF | C1CCOC1 | C4H8O
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
solvent | water | 20 ml | O | H2O
product | (S)-3-(8,8-Dimethyl-4,4-dioxo-7-oxa-4lambda6-thia-5-azaspiro[2.5]oct-5-en-6-ylamino)-3-phenylpropan-1-ol | 26 mg | CC1(OC(=NS(C12CC2)(=O)=O)N[C@@H](CCO)C2=CC=CC=C2)C | C16H22N2O4S
